US05491132
A solution of N-[N-{2-[N-(hexahydro-1H-azepin-1-ylcarbonyl)-N-methylamino]ethyl}-N-methylaminocarbonyl]-L-phenylalanine benzyl ester (1.46 g) in methanol (20 ml) was hydrogenated over 10% palladium on carbon (146 mg) at 3 atmospheric pressure of hydrogen gas for 1 hour at ambient temperature. The solution was filtered and concentrated in vacuo to give N-[N-{2-[N-(hexahydro-1H-azepin-1-ylcarbonyl)-N-methylamino]ethyl}-N-methylaminocarbonyl]-L-phenylalanine (1.28 g) as an oil. Rf: 0.35 (chloroform:methanol:acetic acid, 16:1:1, V/V)

reactant | N-[N-{2-[N-(hexahydro-1H-azepin-1-ylcarbonyl)-N-methylamino]ethyl}-N-methylaminocarbonyl]-L-phenylalanine benzyl ester | 1.46 g | C(C1=CC=CC=C1)OC([C@@H](NC(=O)N(C)CCN(C)C(=O)N1CCCCCC1)CC1=CC=CC=C1)=O | C28H38N4O4
reactant | hydrogen | [H][H] | H2
solvent | methanol | 20 ml | CO | CH4O
catalyst | palladium on carbon | 146 mg | [Pd] | Pd
product | N-[N-{2-[N-(hexahydro-1H-azepin-1-ylcarbonyl)-N-methylamino]ethyl}-N-methylaminocarbonyl]-L-phenylalanine | 1.28 g | N1(CCCCCC1)C(=O)N(C)CCN(C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O)C | C21H32N4O4
